US07230011B2
5-Methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1-phenethyl-1H-indole
By a method similar to Preparation 26, using 5-methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole (5.81 mmol, 1.50 g), 35% potassium hydride (5.81 mmol, 0.665 g), toluene-4-sulfonic acid phenethyl ester (5.81 mmole, 1.60 g), additional 18-crown-6 (5.22 mmol,1.38 g) and additional toluene-4-sulfonic acid phenethyl ester (2.90 mmole, 0.802 g) were added to afford 0.31 g (15%) of the title compound: mass spectrum (ion spray): m/z=363 (M+1).

reactant | 5-methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole | 5.81 mmol, 1.50 g | COC=1C=C2C(=CNC2=C(C1)C)C1CCN(CC1)C | C16H22N2O
reactant | potassium hydride | 5.81 mmol, 0.665 g | [H-].[K+]
reactant | toluene-4-sulfonic acid phenethyl ester | 5.81 mmole, 1.60 g | C(CC1=CC=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C15H16O3S
reactant | 18-crown-6 | 5.22 mmol, 1.38 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | toluene-4-sulfonic acid phenethyl ester | 2.90 mmole, 0.802 g | C(CC1=CC=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C15H16O3S
product | 5-Methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1-phenethyl-1H-indole | 0.31 g, 15% | COC=1C=C2C(=CN(C2=C(C1)C)CCC1=CC=CC=C1)C1CCN(CC1)C | C24H30N2O
